US07875645B2
2-(5-Fluoro-2-trifluoromethyl-benzyl)-4,5-dihydro-1H-imidazole was prepared from (2-fluoro-5-trifluoromethyl-phenyl)-acetonitrile and the complex of trimethylaluminium with ethylene diamine in toluene at reflux for 18 hours in analogy to M. P. Wentland et al., J. Med. Chem. 30, 1482 (1987): brown solid; MS (ISP): 247.0 ((M+H)+.).

reactant | (2-fluoro-5-trifluoromethyl-phenyl)-acetonitrile | FC1=C(C=C(C=C1)C(F)(F)F)CC#N | C9H5F4N
reactant | trimethylaluminium | C[Al](C)C
reactant | ethylene diamine | C(CN)N | C2H8N2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(5-Fluoro-2-trifluoromethyl-benzyl)-4,5-dihydro-1H-imidazole | FC=1C=CC(=C(CC=2NCCN2)C1)C(F)(F)F | C11H10F4N2
